US07282501B2
Step A: (4-Bromo-3-methyl-phenoxy)-tert-butyl-dimethyl-silane
A 12 L flask was charged with 4-bromo-3-methyl phenol (428 g, 2.29 mol), CH2Cl2 (7.5 L), triethylamine (480 mL, 3.45 mol), and tert-butyldimethylsilyl chloride (324 g, 2.15 mol). To the solution was added 4-dimethylaminopyridine (15.0 g, 0.123 mol). The reaction mixture was stirred at ambient temperature overnight. The reaction was washed with saturated ammonium chloride (2.2 L) and then DI water (0.9 L). The organic layer was dried (Na2SO4), filtered, and concentrated to crude product (699 g). This material was purified by silica gel chromatography (heptane) to give the title compound (637 g, 98.5%).

reactant | 4-bromo-3-methyl phenol | 2.29 mol, 428 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | triethylamine | 3.45 mol, 480 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 2.15 mol, 324 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
catalyst | 4-dimethylaminopyridine | 0.123 mol, 15.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 7.5 L | C(Cl)Cl | CH2Cl2
product | (4-Bromo-3-methyl-phenoxy)-tert-butyl-dimethyl-silane | 637 g, 98.5% | BrC1=C(C=C(O[Si](C)(C)C(C)(C)C)C=C1)C | C13H21BrOSi
